### ISSUE TITLE
TryThis.addSuggestion mis-indents tactic sequences

### ISSUE THREAD

**Issue by JLimperg** [leanprover/lean4#10150]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The `TryThis` suggestions API mis-indents tactic sequences. This means that (a) the info message is formatted incorrectly and (b) when clicking the code action, the tactic sequence is inserted in the wrong place, creating a syntax error. MWE:

```lean
import Lean

open Lean Lean.Meta.Tactic

elab "suggest_tac_seq" : tactic => do
  let tacSeq ← `(tacticSeq|
    skip
    skip)
  TryThis.addSuggestion (← getRef) {
    suggestion := .tsyntax tacSeq
  }

example : True := by
  suggest_tac_seq
  trivial

/-
(a) Info message:
Try this:
    skip
      skip

(b) Result of applying the code action:
example : True := by
    skip
    skip
  trivial
-/
```

There are also more challenging examples, but I wouldn't expect these to be formatted correctly (though this one actually remains syntactically correct).

```lean
import Lean

open Lean Lean.Meta.Tactic

elab "suggest_tac_seq" : tactic => do
  let tacSeq ← `(tacticSeq|
    skip
    skip)
  TryThis.addSuggestion (← getRef) {
    suggestion := .tsyntax tacSeq
  }

example : True := by
  first | suggest_tac_seq | fail
  trivial

/-
example : True := by
  first | 
    skip
    skip | fail
  trivial
-/
```

### Context

`aesop?` uses this functionality pervasively. I previously worked around the indentation issues, but nightly breaks the workaround ([Zulip](https://leanprover.zulipchat.com/#narrow/channel/428973-nightly-testing/topic/Aesop.20status.20updates)).

### Versions

```
Lean 4.24.0-nightly-2025-08-26
Target: x86_64-unknown-linux-gnu
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by mhuisi** [comment]
> I previously worked around the indentation issues, but nightly breaks the workaround ([Zulip](https://leanprover.zulipchat.com/#narrow/channel/428973-nightly-testing/topic/Aesop.20status.20updates)).

Can you say more about the workaround? When I try your example above on 4.22.0, the message is formatted correctly, but applying the suggestion also leads to a broken tactic script (i.e. the message displays something different from what is actually applied to the document). 
#9966 should merely ensure that the message matches what is actually inserted, not change anything about what is inserted.

**Comment by JLimperg** [comment]
The workaround was this function:

```lean
def addTryThisTacticSeqSuggestion (ref : Syntax)
    (suggestion : TSyntax ``Lean.Parser.Tactic.tacticSeq)
    (origSpan? : Option Syntax := none) : MetaM Unit := do
  let fmt ← PrettyPrinter.ppCategory ``Lean.Parser.Tactic.tacticSeq suggestion
  let msgText := fmt.pretty (indent := 0) (column := 0)
  if let some range := (origSpan?.getD ref).getRange? then
    let map ← getFileMap
    let (indent, column) := Lean.Meta.Tactic.TryThis.getIndentAndColumn map range
    let text := fmt.pretty (indent := indent) (column := column)
    let suggestion := {
      -- HACK: The `tacticSeq` syntax category is pretty-printed with each line
      -- indented by two spaces (for some reason), so we remove this
      -- indentation.
      suggestion := .string $ dedent text
      toCodeActionTitle? := some λ _ => "Replace aesop with the proof it found"
      messageData? := some msgText
      preInfo? := "  "
    }
    Lean.Meta.Tactic.TryThis.addSuggestion ref suggestion (origSpan? := origSpan?)
      (header := "Try this:\n")
where
  dedent (s : String) : String :=
    s.splitOn "\n"
    |>.map (λ line => line.dropPrefix? "  " |>.map (·.toString) |>.getD line)
    |> String.intercalate "\n"
```

Basically, manually dedenting the `suggestion` to work around the pretty-printer adding indentation for tactic seqs.

**Comment by mhuisi** [comment]
Thanks! I'll look into it.

**Comment by mhuisi** [comment]
@JLimperg I've looked into the root cause for a bit but didn't find a good solution, unfortunately. #10157 re-adds support for `messageData?` so that your hack works again and aesop is unblocked:

```lean
import Lean

open Lean Lean.Meta.Tactic

def addTryThisTacticSeqSuggestion (ref : Syntax)
    (suggestion : TSyntax ``Lean.Parser.Tactic.tacticSeq)
    (origSpan? : Option Syntax := none) : MetaM Unit := do
  let fmt ← PrettyPrinter.ppCategory ``Lean.Parser.Tactic.tacticSeq suggestion
  let msgText := fmt.pretty (indent := 0) (column := 0)
  if let some range := (origSpan?.getD ref).getRange? then
    let map ← getFileMap
    let (indent, column) := Lean.Meta.Tactic.TryThis.getIndentAndColumn map range
    let text := fmt.pretty (indent := indent) (column := column)
    let suggestion := {
      -- HACK: The `tacticSeq` syntax category is pretty-printed with each line
      -- indented by two spaces (for some reason), so we remove this
      -- indentation.
      suggestion := .string $ dedent text
      toCodeActionTitle? := some λ _ => "Replace aesop with the proof it found"
      messageData? := some $ dedent msgText
    }
    Lean.Meta.Tactic.TryThis.addSuggestion ref suggestion (origSpan? := origSpan?)
      (header := "Try this:")
where
  dedent (s : String) : String :=
    s.splitOn "\n"
    |>.map (λ line => line.dropPrefix? "  " |>.map (·.toString) |>.getD line)
    |> String.intercalate "\n"

elab "suggest_tac_seq" : tactic => do
  let tacSeq ← `(tacticSeq|
    skip
    skip)
  addTryThisTacticSeqSuggestion (← getRef) tacSeq

example : True := by
  suggest_tac_seq
  trivial
```

I hope that we can clean this up in the future when this issue is fixed, though.

**Comment by robsimmons** [comment]
I believe this is sufficiently related to not be another issue. Quick fixing the following in VSCode:

```lean
theorem simpleEquality : {P Q : Prop} → P = (P ∨ False) := by exact?
```

gives the following broken code:

```lean
theorem simpleEquality : {P Q : Prop} → P = (P ∨ False) := by exact fun {P Q} =>
  Eq.symm (or_false P)
```

it would work fine if we added parens

```lean
theorem simpleEquality : {P Q : Prop} → P = (P ∨ False) := by exact (fun {P Q} =>
  Eq.symm (or_false P))
```

or avoided the linebreak:

```lean
theorem simpleEquality : {P Q : Prop} → P = (P ∨ False) := by exact fun {P Q} => Eq.symm (or_false P)
```

**Comment by eric-wieser** [comment]
Here's another example:
```lean-4
import Lean

open Lean Elab Tactic in
elab "try_long_this" : tactic => do
  let g ← getMainGoal
  g.admit
  let id := mkIdent `id
  Meta.Tactic.TryThis.addSuggestion (← getRef) {suggestion := .tsyntax <| ← `(tactic|
      (skip;
        -- Needs to be sufficiently long. This comment doesn't matter.
        exact $id $id $id $id $id $id $id $id $id $id $id $id $id $id $id $id sorry)
  )}

-- ok
example : True := by try_long_this

-- substitution is illegal
example : True := by (skip;
  exact id id id id id id id id id id id id id id id id sorry)

-- should be either
example : True := by (skip;
                        exact id id id id id id id id id id id id id id id id sorry)

-- or
example : True := by
  (skip;
    exact id id id id id id id id id id id id id id id id sorry)
```
